US04996358
1.0 g of N-benzyloxy 2(RS)-isobutyl-3-amino-propionic acid in 10 ml of formic acid and 1 ml of acetic anhydride was stirred at room temperature for 2 hours and then evaporated. The residue was taken up in ethyl acetate, washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to yield 1.2 g (100%) of N-formyl-N-benzyloxy 2(RS)-isobutyl-3-aminopropionic acid as a gum. Rf (toluene/acetic acid 4:1) 0.39.

reactant | N-benzyloxy 2(RS)-isobutyl-3-amino-propionic acid | 1.0 g | C(C1=CC=CC=C1)ONCC(C(=O)O)CC(C)C | C14H21NO3
reactant | formic acid | 10 ml | C(=O)O | CH2O2
solvent | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-formyl-N-benzyloxy 2(RS)-isobutyl-3-aminopropionic acid | 1.2 g, 100% | C(=O)N(CC(C(=O)O)CC(C)C)OCC1=CC=CC=C1 | C15H21NO4
